US05185339
A solution of 2-(o-chlorobenzyl)pyridine (32 g, 0.16 moles) and hydrogen peroxide (30% w/v, 10.7 g, 36.0 ml, 0.31 moles) in glacial acetic acid (100 ml) was heated at 75° C. for 17 hours. The reaction mixture was cooled to room temperature, the acetic acid evaporated under reduced pressure and the residue dissolved in chloroform. After neutralisation with potassium carbonate (30 g) the chloroform was removed to give 2-(o-chlorobenzyl)pyridine-N-oxide (34.4 g, 100%) as a viscous oil.

reactant | 2-(o-chlorobenzyl)pyridine | 0.16 moles, 32 g | ClC1=C(CC2=NC=CC=C2)C=CC=C1 | C12H10ClN
reactant | hydrogen peroxide | 0.31 moles, 36.0 ml, 10.7 g | OO | H2O2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(o-chlorobenzyl)pyridine-N-oxide | 34.4 g, 100% | ClC1=C(CC2=[N+](C=CC=C2)[O-])C=CC=C1 | C12H10ClNO
